US07446103B2
N-{2-Chloro-4-[(1-isopropyl-4-piperidinyl)oxy]benzoyl}isoindoline hydrochloride (E62).
A stirred mixture of 2-chloro-4-[(1-isopropyl-4-piperidinyl)oxy]benzoyl chloride hydrochloride (D33) (0.20 g) and diethylaminomethyl polystyrene (3.2 mmol/g, 1.0 g) in DCM (10 ml) at rt was treated with isoindoline (0.08 g) and stirred for 16 h. The reaction mixture was chromatographed directly [silica gel, step gradient 0-10% MeOH (containing 10% 0.880 ammonia solution) in DCM]. Fractions containing the required product were evaporated, redissolved in DCM, treated with excess hydrogen chloride (1M solution in diethyl ether) and then concentrated. The residue was crystallised from acetone to yield the title compound (E62) as a white solid (0.09 g). MS electrospray (+ion) 399/401 (MH+). 1H NMR δ (DMSO-d6): 10.90 (1H, s), 7.33-7.10 (6H, m), 6.96 (1H, m), 4.82-4.51 (3H, m), 4.39 (3H, m), 3.35 (2H, m), 3.00 (2H, m), 2.11-1.80 (4H, m), 1.17 (6H, m).

reactant | 2-chloro-4-[(1-isopropyl-4-piperidinyl)oxy]benzoyl chloride hydrochloride | 0.20 g | Cl.ClC1=C(C(=O)Cl)C=CC(=C1)OC1CCN(CC1)C(C)C
reactant | diethylaminomethyl polystyrene | 1.0 g | CCN(CC)CC1=CC=CC=C1.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C
reactant | isoindoline | 0.08 g | C1NCC2=CC=CC=C12 | C8H9N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-{2-Chloro-4-[(1-isopropyl-4-piperidinyl)oxy]benzoyl}isoindoline hydrochloride | 0.09 g | Cl.ClC1=C(C(=O)N2CC3=CC=CC=C3C2)C=CC(=C1)OC1CCN(CC1)C(C)C | InChI=1S/C23H27ClN2O2.ClH/c1-16(2)25-11-9-19(10-12-25)28-20-7-8-21(22(24)13-20)23(27)26-14-17-5-3-4-6-18(17)15-26;/h3-8,13,16,19H,9-12,14-15H2,1-2H3;1H
